US07795283B2
i) Methyl 3-(3-{[(benzyloxy)carbonyl]amino}propoxy)benzoate
A mixture of methyl 3-hydroxybenzoate (609 mg, 4 mmol), benzyl N-(3-hydroxypropyl)carbamate (754 mg, 3.6 mmol) and polymer supported triphenylphosphine (PS—PPh3) (4 g, 12 mmol) in THF (40 mL) was stirred and diethyl azodicarboxylate (948 mg, 5.44 mmol) was added as a solution in THF (4 mL). The mixture was stirred for 16 h then was filtered and washed with DCM and concentrated by evaporation. The residue was purified by chromatography eluting with DCM to give the title compound (481 mg, 35%) as an oil; 1H NMR δ 1.85-1.92 (2H, m), 3.19 (2H, q), 3.86 (3H, s), 4.05 (2H, t), 5.02 (2H, s), 7.20-7.22 (1H, m), 7.29-7.38 (5H, m), 7.42-7.45 (2H, m), 7.53-7.56 (1H, m).

reactant | methyl 3-hydroxybenzoate | 4 mmol, 609 mg | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | benzyl N-(3-hydroxypropyl)carbamate | 3.6 mmol, 754 mg | OCCCNC(OCC1=CC=CC=C1)=O | C11H15NO3
reactant | triphenylphosphine | 12 mmol, 4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 5.44 mmol, 948 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Methyl 3-(3-{[(benzyloxy)carbonyl]amino}propoxy)benzoate | 481 mg, 35% | C(C1=CC=CC=C1)OC(=O)NCCCOC=1C=C(C(=O)OC)C=CC1 | C19H21NO5
